US07514583B2
1,3-Bis(3,4-methylenedioxyphenyl)urea (Compound 67B; DC-0076B)
A solution of 3,4-methylenedioxyaniline (0.35 g) and 3,4-methylenedioxyphenyl isocyanate (0.4 g) in benzene (25 ml) was refluxed for 1 hour. The precipitate formed was filtered, washed with benzene then dried to give pure DC-0076B (0.697 g, 95%) as a pale brown solid.

reactant | 3,4-methylenedioxyaniline | 0.35 g | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
reactant | 3,4-methylenedioxyphenyl isocyanate | 0.4 g | C1OC=2C=C(C=CC2O1)N=C=O | C8H5NO3
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | 1,3-Bis(3,4-methylenedioxyphenyl)urea | C1OC=2C=C(C=CC2O1)NC(=O)NC1=CC2=C(C=C1)OCO2 | C15H12N2O5
